US04410529
A solution of 4.45 g (32.0 millimoles) of 1-chlorocyclopropanecarboxylic acid chloride in 20 ml of absolute tetrahydrofuran is added dropwise to a stirred suspension of 5.0 g (26.4 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone in 100 ml of absolute tetrahydrofuran. The mixture is then stirred for 20 hours at room temperature followed by 1 hour under reflux. The product is filtered off at 10° C., washed first with tetrahydrofuran and then with water, and recrystallized from dimethylformamide/water. 6.3 g (82% of theory) of 6-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone are isolated as colorless crystals, of melting point 231°-232° C.

reactant | 1-chlorocyclopropanecarboxylic acid chloride | 32.0 millimoles, 4.45 g | ClC1(CC1)C(=O)Cl | C4H4Cl2O
reactant | 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 26.4 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-[p-(1-chlorocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 6.3 g, 82% | ClC1(CC1)C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C14H14ClN3O2
